US08492545B2
(2-Methyl-5-nitro-phenyl)-(4-pyridin-3-yl-thiazol-2-yl)-amine
In a reactor, introduce methanol (1120 L), potassium carbonate (287 kg, 2076.70 mol) and 1-acetyl-3-(2-methyl-5-nitro-phenyl)-thiourea (67 kg, 264.53 mol). 2-bromo-1-pyridin-3-yl-ethanone (Int4) (52 kg, 259.96 mol) was then added and temperature maintained at 25-30° C. for 4 hours. Water (692 L) was added to the reaction mixture and precipitate filtered, washed with water and diisopropylether. The product was then dried in a tray drier at 45-50° C.

reactant | methanol | 1120 L | CO | CH4O
reactant | potassium carbonate | 2076.70 mol, 287 kg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-acetyl-3-(2-methyl-5-nitro-phenyl)-thiourea | 264.53 mol, 67 kg | C(C)(=O)NC(=S)NC1=C(C=CC(=C1)[N+](=O)[O-])C | C10H11N3O3S
reactant | 2-bromo-1-pyridin-3-yl-ethanone | 259.96 mol, 52 kg | BrCC(=O)C=1C=NC=CC1 | C7H6BrNO
solvent | Water | 692 L | O | H2O
product | (2-Methyl-5-nitro-phenyl)-(4-pyridin-3-yl-thiazol-2-yl)-amine | CC1=C(C=C(C=C1)[N+](=O)[O-])NC=1SC=C(N1)C=1C=NC=CC1 | C15H12N4O2S
